US08859574B2
(S)-2-(3-(4-(5-chloro-4-(5-methyl-1H-pyrazol-3-ylamino)pyrimidin-2-ylamino)-2,5-dimethylphenyl)piperidin-1-yl)-N-methylacetamide (208)
A solution of 5-chloro-N2-(2,5-dimethyl-4-(piperidin-3-yl)phenyl)-N4-(5-methyl-1H-pyrazol-3-yl)pyrimidine-2,4-diamine (700 mg, 1.70 mmol), 2-bromo-N-methylacetamide (258 mg, 1.70 mmol) and TEA (1.2 mL, 8.5 mmol) in DMF (4 mL) was stirred at rt for 30 min. The reaction was purified by RP-HPLC to give the product as a racemate; ESMS m/z 483.2 (M+1). Chiral separation of the racemic mixture was conducted with chiral HPLC (ChiralCel OD-H, Hex:EtOH:MeOH/80:10:10, 15 min run time, 1 mL/min). The two purified enantiomer peaks were collected separately, both as white solids: (R)-2-(3-(4-(5-chloro-4-(5-methyl-1H-pyrazol-3-ylamino)pyrimidin-2-ylamino)-2,5-dimethylphenyl)piperidin-1-yl)-N-methylacetamide and (S)-2-(3-(4-(5-chloro-4-(5-methyl-1H-pyrazol-3-ylamino)pyrimidin-2-ylamino)-2,5-dimethylphenyl)piperidin-1-yl)-N-methylacetamide; both peaks: ESMS m/z 483.2 (M+H+). The earlier eluting peak (rt=5.63 min. vs. rt=7.62 min.) was arbitrarily assigned as the (R) enantiomer.

reactant | 5-chloro-N2-(2,5-dimethyl-4-(piperidin-3-yl)phenyl)-N4-(5-methyl-1H-pyrazol-3-yl)pyrimidine-2,4-diamine | 1.70 mmol, 700 mg | ClC=1C(=NC(=NC1)NC1=C(C=C(C(=C1)C)C1CNCCC1)C)NC1=NNC(=C1)C | C21H26ClN7
reactant | 2-bromo-N-methylacetamide | 1.70 mmol, 258 mg | BrCC(=O)NC | C3H6BrNO
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | (S)-2-(3-(4-(5-chloro-4-(5-methyl-1H-pyrazol-3-ylamino)pyrimidin-2-ylamino)-2,5-dimethylphenyl)piperidin-1-yl)-N-methylacetamide | ClC=1C(=NC(=NC1)NC1=CC(=C(C=C1C)[C@H]1CN(CCC1)CC(=O)NC)C)NC1=NNC(=C1)C | C24H31ClN8O
